US07517878B2
To a mixture of 2-hydroxy-3-methoxytoluene (17.0 g, 0.123 mol) and triethylamine (19.72 mL, 0.141 mol) in dichloromethane (425 mL) was slowly added trifluoromethanesulfonic anhydride (45.13 g, 0.160 mol) under cooling at 0-5° C. The mixture was then warmed to rt and stirred for 2 h. TLC (Eluent—5% EtOAc/Hexanes) indicated the disappearance of the starting material. The reaction mixture was concentrated to dryness under vacuum. Purification by silica gel chromatography using a gradient of hexanes—10% EtOAc/hexanes as eluent gave 34.37 g (99.4%) of 2-methoxy-6-methylphenyl trifluoromethanesulfonate as a clear oil.

reactant | 2-hydroxy-3-methoxytoluene | 0.123 mol, 17.0 g | OC1=C(C=CC=C1OC)C | C8H10O2
reactant | triethylamine | 0.141 mol, 19.72 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.160 mol, 45.13 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 425 mL | ClCCl | CH2Cl2
product | 2-methoxy-6-methylphenyl trifluoromethanesulfonate | 34.37 g, 99.4% | FC(S(=O)(=O)OC1=C(C=CC=C1C)OC)(F)F | C9H9F3O4S
